US07153854B2
To a suspension of 60% NaH (2.66 g) in DMF (20 mL) was added methyl hydroxyacetate (5.00 g) under ice-water cooling, and the mixture was stirred at 0° C. for 0.5 hour. To this was added 2-(2-bromoethoxy)tetrahydro-2H-pyran (12.8 g) under ice-water cooling, and the mixture was stirred at ambient temperature for 2 hours. The mixture was partitioned between AcOEt and water. The organic layer was separated, washed with water and brine, dried over MgSO4, and evaporated in vacuo. The residue was purified by silica gel column chromatography eluting with a mixture of hexane and AcOEt (10:1-3:1) to give methyl[2-(tetrahydro-2H-pyran-2-yloxy)ethoxy]acetate pale yellow oil (4.45 g).

reactant | NaH | 2.66 g | [H-].[Na+]
reactant | methyl hydroxyacetate | 5.00 g | OCC(=O)OC | C3H6O3
reactant | 2-(2-bromoethoxy)tetrahydro-2H-pyran | 12.8 g | BrCCOC1OCCCC1 | C7H13BrO2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | methyl[2-(tetrahydro-2H-pyran-2-yloxy)ethoxy]acetate | COC(COCCOC1OCCCC1)=O | C10H18O5
